US06927222B2
i) N-[2-(2-Butynyloxy)phenyl]acetamide
A mixture of 1-bromo-2-butine (1.39 g (10.4 mmol), 2-acetamidophenol (1.58 mg, 10.4 mmol), anhydrous potassium carbonate (1.44 g, 10.4 mmol) and sodium iodide (30 mg) in butanone (50 ml) was heated over night to reflux. After that the reaction mixture was filtrated, the filtrate was evaporated and the resulting residue was taken up by ethyl acetate. The obtained solution was washed with 5-proz. sodium hydroxide, brine and water, dried over sodium sulfate and evaporated. The crude was recrystallized out of heptane/MTB (1:1) yielding in 1.57 g (74%) of a light brown needles.

reactant | 1-bromo-2-butine | BrCC#CC | C4H5Br
reactant | 2-acetamidophenol | 10.4 mmol, 1.58 mg | C(C)(=O)NC1=C(C=CC=C1)O | C8H9NO2
reactant | potassium carbonate | 10.4 mmol, 1.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 50 ml | CC(CC)=O | C4H8O
catalyst | sodium iodide | 30 mg | [I-].[Na+]
product | N-[2-(2-Butynyloxy)phenyl]acetamide | 1.57 g, 74% | C(C#CC)OC1=C(C=CC=C1)NC(C)=O | C12H13NO2
